US06780996B2
To a mixture of sodium hydride (122 mg, 3.04 mmol) in 6 mL of dimethylsulfoxide is added benzyl alcohol (91 mg, 0.84 mmol). The solution is stirred at room temperature for 40 minutes. 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile (300 mg, 0.76 mmol) is added and the reaction mixture is heated at 100° C. for 3 hours then cooled to room temperature and allowed to stir overnight. The reaction mixture is poured into saturated sodium bicarbonate and the solids are collected by filtration. Purification by flash column chromatography eluting with 10% ethyl acetate in dichloromethane provides 267 mg of 7-benzyloxy-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile, mp 198-200° C.

reactant | sodium hydride | 3.04 mmol, 122 mg | [H-].[Na+]
reactant | benzyl alcohol | 0.84 mmol, 91 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 0.76 mmol, 300 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C18H12Cl2FN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 6 mL | CS(=O)C | C2H6OS
product | 7-benzyloxy-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile | 267 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C(=C1)OC)Cl)Cl)OC | C25H19Cl2N3O3
